US06160002
A solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole (500 g) in triethyl orthoformate was treated with concentrated hydrochloric acid (10 ml) and heated at 50° C. After 8 hours the reaction mixture was evaporated to give a solid which was washed (heptane) and air-dried to give 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-ethoxymethylideneamino-4-trifluoromethylthiopyrazole (217 g), m.p. 68° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole | 500 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-ethoxymethylideneamino-4-trifluoromethylthiopyrazole | 217 g | C(#N)C1=NN(C(=C1SC(F)(F)F)N=COCC)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H8Cl2F6N4OS
